US05338755
A) 5-Chloro-2'-fluoro-2-[(4-nitrophenylsulfonyl)amino ]-benzophenone
A mixture containing 24.9 g of 2-amino-5-chloro-2'-fluorobenzophenone and 22.1 g of 4-nitrophenylsulfonyl chloride is refluxed for 10 hours in pyridine. It is evaporated to dryness, water and ethyl acetate are then added and the ethyl acetate phase is washed with water and an aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated under vacuum. The expected product precipitates on evaporation; it is filtered off and recrystallized from a DCM/isopropyl ether mixture to give 20 g.

reactant | 2-amino-5-chloro-2'-fluorobenzophenone | 24.9 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C13H9ClFNO
reactant | 4-nitrophenylsulfonyl chloride | 22.1 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-2'-fluoro-2-[(4-nitrophenylsulfonyl)amino ]-benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H12ClFN2O5S
